US06599917B1
c) 3-Benzyl-5-methoxycarbonyl-2-pyridyl Trifluoromethanesulfonate
1.2 g of 3-benzyl-2-hydroxy-5-methoxycarbonylpyridine was dissolved in 40 ml of 1,2-dichloroethane. 2.3 g of N-phenyltrifluoromethanesulfonimide, 202 mg of 4-dimethylaminopyridine and 0.9 ml of triethylamine were added thereto, followed by stirring at room temperature for 3 hours. Then, the solvent was removed, and the residue was subjected to silica gel column chromatography using 11% ethyl acetate/hexane as an eluent for separation and purification, to give 2.0 g of the target compound.

reactant | 3-benzyl-2-hydroxy-5-methoxycarbonylpyridine | 1.2 g | C(C1=CC=CC=C1)C=1C(=NC=C(C1)C(=O)OC)O | C14H13NO3
reactant | N-phenyltrifluoromethanesulfonimide | 2.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | 202 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Benzyl-5-methoxycarbonyl-2-pyridyl Trifluoromethanesulfonate | 2.0 g | FC(S(=O)(=O)OC1=NC=C(C=C1CC1=CC=CC=C1)C(=O)OC)(F)F | C15H12F3NO5S
